US08686022B2
(3) (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid
7-formyl-1-methyl-1H-indole-2-carboxylic acid and (1-methyl-pyrrolidin-2-yl)-piperazin-1-yl-methanone are used as reaction partners. After the reaction has ended the solvents are eliminated in vacuo and the residue is taken up in a little dichloromethane/methanol 80:20. The solution is added to a short layer of silica gel and sucked into a vacuum suction flask by the application of reduced pressure. Then dichloromethane/methanol/water 1:1:0.1 is added in several small batches and again the solution is sucked into a vacuum suction flask by the application of reduced pressure. The fractions containing the product are combined and evaporated down in vacuo.

reactant | 7-formyl-1-methyl-1H-indole-2-carboxylic acid | C(=O)C=1C=CC=C2C=C(N(C12)C)C(=O)O | C11H9NO3
reactant | (1-methyl-pyrrolidin-2-yl)-piperazin-1-yl-methanone | CN1C(CCC1)C(=O)N1CCNCC1 | C10H19N3O
reactant | dichloromethane methanol | ClCCl.CO
solvent | dichloromethane methanol water | ClCCl.CO.O
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid | CN1C(=CC2=CC=CC(=C12)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C(=O)O | C21H28N4O3
